US07759337B2
Synthesis of 3-(1-(1-acetylpiperidin-4-yl)phthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide
A mixture of N-cyclopropyl-4-methyl-3-(1-(piperidin-4-yl)phthalazin-6-yl)benzamide N-cyclopropyl-4-methyl-3-(1-(piperidin-4-yl)phthalazin-6-yl)benzamide (29 μmol) in 2 mL ethanol was stirred at RT and treated with 2-trifluoromethylamine diacetate (142 μmol). The mixture was stirred at RT for 4 h, then purified directly by silica gel chromatography, eluting with 5% 2 M ammonia methanol/dichloromethane to give the title compound.

reactant | N-cyclopropyl-4-methyl-3-(1-(piperidin-4-yl)phthalazin-6-yl)benzamide N-cyclopropyl-4-methyl-3-(1-(piperidin-4-yl)phthalazin-6-yl)benzamide | 29 μmol | C1(CC1)NC(C1=CC(=C(C=C1)C)C=1C=C2C=NN=C(C2=CC1)C1CCNCC1)=O.C1(CC1)NC(C1=CC(=C(C=C1)C)C=1C=C2C=NN=C(C2=CC1)C1CCNCC1)=O | 2C24H26N4O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-(1-(1-acetylpiperidin-4-yl)phthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide | C(C)(=O)N1CCC(CC1)C1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)NC2CC2)C=CC1C | C26H28N4O2
